US07273878B2
To 7 ml of N,N-dimethylformamide were dissolved 0.50 g (2.5 mmol) of 4,4-difluoro-3-methyl-3-butenyl methanesulfonate and 0.56 g (2.5 mmol) of 2-cyclohexyl-4-methylthiazole-5-carboxylic acid, followed by the addition of 0.42 g (5.0 mmol) of sodium hydrogencarbonate and stirring at 100° C. for 3 hours. The reaction liquid was then poured in water and extracted with diethyl ether. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate:hexane=1:9) to obtain 0.64 g (yield: 78%) of 4,4-difluoro-3-methyl-3-butenyl 2-cyclohexyl-4-methylthiazole-5-carboxylate.

reactant | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
reactant | 4,4-difluoro-3-methyl-3-butenyl methanesulfonate | 2.5 mmol, 0.50 g | CS(=O)(=O)OCCC(=C(F)F)C | C6H10F2O3S
reactant | 2-cyclohexyl-4-methylthiazole-5-carboxylic acid | 2.5 mmol, 0.56 g | C1(CCCCC1)C=1SC(=C(N1)C)C(=O)O | C11H15NO2S
reactant | sodium hydrogencarbonate | 5.0 mmol, 0.42 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 4,4-difluoro-3-methyl-3-butenyl 2-cyclohexyl-4-methylthiazole-5-carboxylate | 0.64 g, yield: 78% | C1(CCCCC1)C=1SC(=C(N1)C)C(=O)OCCC(=C(F)F)C | C16H21F2NO2S
